US07449486B2
Step A: Preparation of 4-hydroxy-1-phenylbutan-1-one:
To a solution of dihydrofuran-2-one (5.71 g, 66 mmol) in diethyl ether (70 mL) at −78° C. was slowly added phenyl lithium (24 mL, 40 mmol, 1.67 M solution in cyclohexane/diethyl ether). After stirring at −78° C. for 2 hours, the reaction mixture was quenched by the addition of 10% NH4Cl (35 mL). The mixture was warmed to room temperature and the layers separated. The aqueous layer was extracted with diethyl ether (2×40 mL). The combined organics were washed with water (2×40 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography (2:3 hexanes/ethyl acetate) to provide the product (6.4 g, 97%) as pale yellow oil.

reactant | dihydrofuran-2-one | 66 mmol, 5.71 g | O1C(CCC1)=O | C4H6O2
reactant | phenyl lithium | 40 mmol, 1.67 M, 24 mL | C1(=CC=CC=C1)[Li]
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
product | 4-hydroxy-1-phenylbutan-1-one | 6.4 g, 97% | OCCCC(=O)C1=CC=CC=C1 | C10H12O2
